US09357779B2
4-[4-(Cyclohexylacetyl)-1,3-thiazol-2-yl]piperidinium chloride (II-1)
Under argon and at 0° C., a solution of hydrogen chloride in dioxane (4M, 1 ml) was added to a solution of tert-butyl 4-[4-(cyclohexylacetyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (5.0 g) in diethyl ether (1 ml). The mixture was stirred at 0° C. and then slowly warmed to room temperature. After stirring overnight, excess acid and the solvent were removed under reduced pressure. This gave 4[4-(cyclohexylacetyl)-1,3-thiazol-2-yl]piperidinium chloride (315 mg).

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-[4-(cyclohexylacetyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | 5.0 g | C1(CCCCC1)CC(=O)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H32N2O3S
solvent | dioxane | 4M, 1 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | 4-[4-(Cyclohexylacetyl)-1,3-thiazol-2-yl]piperidinium chloride | [Cl-].C1(CCCCC1)CC(=O)C=1N=C(SC1)C1CC[NH2+]CC1 | InChI=1S/C16H24N2OS.ClH/c19-15(10-12-4-2-1-3-5-12)14-11-20-16(18-14)13-6-8-17-9-7-13;/h11-13,17H,1-10H2;1H
